US07825253B2
N5-(1H-Benzoimidazol-5-ylmethyl)-N2-(2-methyl-benzofuran-7-yl)-quinoline-2,5-diamine
The title compound, MS: m/e=420.1 (M+H+), was prepared from 5-nitro-2-chloroquinoline, (2-methyl-1-benzofuran-7-yl) amine and 1H-benzimidazole-5-carboxaldehyde as described in example 26.

reactant | 5-nitro-2-chloroquinoline | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | (2-methyl-1-benzofuran-7-yl) amine | CC=1OC2=C(C1)C=CC=C2N | C9H9NO
reactant | 1H-benzimidazole-5-carboxaldehyde | N1C=NC2=C1C=CC(=C2)C=O | C8H6N2O
product | N5-(1H-Benzoimidazol-5-ylmethyl)-N2-(2-methyl-benzofuran-7-yl)-quinoline-2,5-diamine | N1C=NC2=C1C=CC(=C2)CNC=2C=1C=CC(=NC1C=CC2)NC2=CC=CC=1C=C(OC12)C | C26H21N5O
